US08629137B2
Step 2: 1,3,3,7-tetramethyl-2,3-dihydro-1H-indole
Under an argon atmosphere 5.71 mL of a 1 molar lithium aluminium hydride solution in THF were added dropwise to 600 mg (2.85 mmol) 1,3,3,7-tetramethyl-1,3-dihydro-indol-2-one in 20 mL THF. The reaction mixture was stirred for 2.5 h at 60° C. and then cooled to RT. While cooling with the ice bath, saturated, aqueous sodium sulphate solution was slowly added dropwise and the resulting suspension was filtered through Celite. The filtrate was combined with EtOAc and saturated sodium chloride solution. The organic phase was dried on sodium sulphate, filtered and the filtrate was evaporated down.

reactant | lithium aluminium hydride | 1 molar | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,3,3,7-tetramethyl-1,3-dihydro-indol-2-one | 2.85 mmol, 600 mg | CN1C(C(C2=CC=CC(=C12)C)(C)C)=O | C12H15NO
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,3,3,7-tetramethyl-2,3-dihydro-1H-indole | CN1CC(C2=CC=CC(=C12)C)(C)C | C12H17N
